US07834051B2
(4R,5S)-3,3-difluoro-4-hydroxy-5-methylpyrrolidin-2-one
Ethyl 4-[(tert-butoxycarbonyl)amino]-2,4,5-trideoxy-2,2-difluoro-L-threo-pentonate (5.45 g) was dissolved in a 4 mol/L solution (100 mL) of hydrogen chloride/ethyl acetate, and the mixture was stirred at room temperature for 1.5 hr. The reaction solution was concentrated under reduced pressure, THF (.200 mL) and diisopropylethylamine (9.9 mL) were added thereto, and the mixture was heated under reflux for 3 hr. The reaction solution was concentrated under reduced pressure and water (50 mL) was added to the residue. The mixture was extracted with ethyl acetate (100 mL×5) and ethyl acetate/THF=2/1 (100 mL×3). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with diisopropyl ether to give the title compound as a white powder (yield: 1.55 g, 46%).

reactant | Ethyl 4-[(tert-butoxycarbonyl)amino]-2,4,5-trideoxy-2,2-difluoro-L-threo-pentonate | 5.45 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(C(=O)OCC)(F)F)O)C | C12H21F2NO5
solvent | hydrogen chloride ethyl acetate | Cl.C(C)(=O)OCC
product | (4R,5S)-3,3-difluoro-4-hydroxy-5-methylpyrrolidin-2-one | yield: 1.55 g, 46% | FC1(C(N[C@H]([C@H]1O)C)=O)F | C5H7F2NO2
